US07799924B2
1-Cyclopentyl-4-{3-[5-(3,4-dichlorophenyl)[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride
The title compound was prepared by a similar procedure to that described in Example 3, starting from 4-(1-cyclopentylpiperidin-4-yl)-N-hydroxybutyramidine and 3,4-dichlorobenzoyl chloride.

reactant | 4-(1-cyclopentylpiperidin-4-yl)-N-hydroxybutyramidine | C1(CCCC1)N1CCC(CC1)CCCC(=N)NO | C14H27N3O
reactant | 3,4-dichlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
product | 1-Cyclopentyl-4-{3-[5-(3,4-dichlorophenyl)[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride | Cl.C1(CCCC1)N1CCC(CC1)CCCC1=NOC(=N1)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C21H27Cl2N3O.ClH/c22-18-9-8-16(14-19(18)23)21-24-20(25-27-21)7-3-4-15-10-12-26(13-11-15)17-5-1-2-6-17;/h8-9,14-15,17H,1-7,10-13H2;1H
